US06235355B1
Dimethoxyethane 350 ml was added to 60% sodium hydride 14.4 g (360 mmol), the mixture was stirred at room temperature while a solution of ethyl diethylphosphonoacetate 80.7 g (360 mmol) in dimethoxyethane (50 ml) was added dropwise. After the generation of hydrogen gas was stopped, the solution was cooled to 15° C., and a solution of 3,5-difluorobenzaldehyde 50.0 g (352 mmol) in dimethoxy ethane (50 ml) was added dropwise keeping the liquid temperature below 25° C. After addition, the mixture was stirred for 30 minutes, the reactant was added to water 300 ml, and the product was extracted with diethylether. The extract was washed with a sodium chloride aqueous solution, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: heptane/ethyl acetate=3/1). Such obtained purified material was hydrogenated in the presence of 5% palladium carbon as a catalyst in ethanol 300 ml. After hydrogenation, the catalyst was filtered off, the solvent was distilled off under reduced pressure to obtain 3-(3,5-difluorophenyl) propionic acid ethyl ester 53.0 g (247 mmol). The yield was 70.2% from 3,5-difluorobenzaldehyde.

reactant | sodium hydride | 360 mmol, 14.4 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 360 mmol, 80.7 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | hydrogen | [H][H] | H2
reactant | 3,5-difluorobenzaldehyde | 352 mmol, 50.0 g | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
solvent | dimethoxy ethane | 50 ml | C(OC)COC | C4H10O2
solvent | Dimethoxyethane | 350 ml | C(OC)COC | C4H10O2
solvent | water | 300 ml | O | H2O
product | 3-(3,5-difluorophenyl) propionic acid ethyl ester | 247 mmol, 53.0 g, yield was 70.2% | C(C)OC(CCC1=CC(=CC(=C1)F)F)=O | C11H12F2O2
